US08440665B2
A suspension of isopropyl 5-iodo-2-methoxybenzoate (1.52 g, 4.75 mmol), 4-cyclopropyl-1H-imidazole (0.777 g, 7.13 mmol), copper(I) oxide (0.067 g, 0.047 mmol), 8-hydroxyquinoline (0.103 g, 0.71 mmol), cesium carbonate (2.41 g, 7.41 mmol), PEG-3350 (1.18 g) and butyronitile (60 ml) was placed in a sealed tube, which was flushed with nitrogen and heated at 120° C. for 16 hours. The solvent was removed under reduced pressure, and the residue was purified by reversed phase HPLC to provide isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoate. (0.720 g, 2.4 mmol). 51% yield. 301 (M+1).

reactant | isopropyl 5-iodo-2-methoxybenzoate | 4.75 mmol, 1.52 g | IC=1C=CC(=C(C(=O)OC(C)C)C1)OC | C11H13IO3
reactant | 4-cyclopropyl-1H-imidazole | 7.13 mmol, 0.777 g | C1(CC1)C=1N=CNC1 | C6H8N2
reactant | 8-hydroxyquinoline | 0.71 mmol, 0.103 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | cesium carbonate | 7.41 mmol, 2.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) oxide | 0.047 mmol, 0.067 g | [Cu-]=O
solvent | butyronitile | 60 ml | C(CCC)#N | C4H7N
product | isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoate | 51% yield | C1(CC1)C=1N=CN(C1)C=1C=CC(=C(C(=O)OC(C)C)C1)OC | C17H20N2O3
